US04562293
Following the same general procedure as in Example I, 50 mmols of 2,6-dimethylphenol were reacted with 55 mmols of paraformaldehyde, 12.5 mmols of aqueous dimethylamine, and 100 mmols of 1,3-butadiene in 54 g of isopropyl alcohol at about 190° C. for 9-10 hours. The process resulted in the formation of 2,4-dimethylspiro[5.5]undeca-1,4,8-trien-3-one.

reactant | 2,6-dimethylphenol | 50 mmols | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | paraformaldehyde | 55 mmols | C=O | CH2O
reactant | dimethylamine | 12.5 mmols | CNC | C2H7N
reactant | 1,3-butadiene | 100 mmols | C=CC=C | C4H6
solvent | isopropyl alcohol | 54 g | C(C)(C)O | C3H8O
product | 2,4-dimethylspiro[5.5]undeca-1,4,8-trien-3-one | CC1=CC2(C=C(C1=O)C)CC=CCC2 | C13H16O
